US09447090B2
To a mixture of 1.6 g of 2,2-dimethyl-5-(3-methylphenyl)-5-nitro-1,3-dioxane in 24 ml of ethanol was added a suspension of a Raney nickel (manufactured by Aldrich, product obtained by washing 1 ml of an aqueous suspension with water and ethanol) in 9 ml of ethanol, followed by stirring for 22 hours under a hydrogen atmosphere at 4 atm. The reaction mixture was filtered over Celite and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 1.55 g of 2,2-dimethyl-5-(3-methylphenyl)-1,3-dioxan-5-amine.

reactant | 2,2-dimethyl-5-(3-methylphenyl)-5-nitro-1,3-dioxane | 1.6 g | CC1(OCC(CO1)([N+](=O)[O-])C1=CC(=CC=C1)C)C | C13H17NO4
reactant | water | O | H2O
solvent | ethanol | 24 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 2,2-dimethyl-5-(3-methylphenyl)-1,3-dioxan-5-amine | 1.55 g | CC1(OCC(CO1)(N)C1=CC(=CC=C1)C)C | C13H19NO2
